US08808703B2
To a solution of diethyl ((14R,18R)-14-amino-18-dodecanamido-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontyl)phosphonate (1 eq) in DCM (0.1 M) was added trimethylsilyl bromide (10 eq). The reaction mixture was stirred at 25° C. overnight and concentrated. The crude mixture was purified by reverse phase high performance liquid chromatography (HPLC) with C4 column eluting with a gradient of 40-100% MeCN/10 mM NH4OAc (95:5) in 10 mM NH4OAc (pH 9) to give ((14R,18R)-14-amino-18-dodecanamido-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontyl)phosphonic acid as a white solid after lyophilizing. 1H NMR (CDCl3): δ 8.84 (s, 2H), 6.54 (d, 2H), 4.20 (t, 2H), 4.07-4.11 (m, 2H), 3.49-3.70 (m, 12H), 3.31-3.36 (m, 4H), 3.00-3.02 (m, 4H), 2.72 (d, 4H), 2.15 (t, 2H), 1.43-1.55 (m, 6H), 1.16-1.22 (m, 32H), 0.80 (t, 6H). LRMS [M+H]=784.5.

reactant | diethyl ((14R,18R)-14-amino-18-dodecanamido-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontyl)phosphonate | 1 eq | N[C@H](C(NCCOCCOCCOCCP(OCC)(OCC)=O)=O)CSC[C@@H](COCCCCCCCCCCCC)NC(CCCCCCCCCCC)=O | C42H86N3O9PS
reactant | trimethylsilyl bromide | 10 eq | C[Si](C)(C)Br | C3H9BrSi
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | ((14R,18R)-14-amino-18-dodecanamido-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontyl)phosphonic acid | N[C@H](C(NCCOCCOCCOCCP(O)(O)=O)=O)CSC[C@@H](COCCCCCCCCCCCC)NC(CCCCCCCCCCC)=O | C38H78N3O9PS
